US05124324
(1-Methyl-2-piperidyl)methyl 1-pentylindole-3-carboxylate
To a DMF (5 ml) suspension of 60% sodium hydride (0.10 g, 2.5 mmol) was dropwise added a DMF (7 ml) solution of (1-methyl-2-piperidyl)methyl 1H-indole-3-carboxylate (0.50 g, 1.7 mmol) at room temperature over a period of 10 min. The mixture was stirred for 45 min., onto which was then poured 1-iodopentane (0.38 g, 1.9 mmol) followed by stirring for additional 4 hours. A reaction solution was poured onto ice water followed by extraction with ethyl acetate (50 ml). The extract was washed successively with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give a pale yellow crude product (0.52 g). Purification of the product by column chromatography on silica gel (SiO2 : 20 g, CHCl3 /MeOH=20/1) afforded the title compound (0.33 g) as a colorless oil.

reactant | sodium hydride | 2.5 mmol, 0.10 g | [H-].[Na+]
reactant | (1-methyl-2-piperidyl)methyl 1H-indole-3-carboxylate | 1.7 mmol, 0.50 g | N1C=C(C2=CC=CC=C12)C(=O)OCC1N(CCCC1)C | C16H20N2O2
reactant | 1-iodopentane | 1.9 mmol, 0.38 g | ICCCCC | C5H11I
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (1-Methyl-2-piperidyl)methyl 1-pentylindole-3-carboxylate | 0.33 g | C(CCCC)N1C=C(C2=CC=CC=C12)C(=O)OCC1N(CCCC1)C | C21H30N2O2
